US04517349
To 500 g of crude p-vinyl phenol, obtained by the dehydrogenation of p-ethyl phenol (composition: p-vinyl phenol 25.5%, p-ethyl phenol 69.2%, p-cresol 2.1%, phenol 0.9%, p-vinyl phenol polymer 0.5% and other unknown substances 1.8%), 50% by weight water, 10 ppm of an iron powder based on the amount of the p-vinyl phenol were added, respectively. The mixture was put in a 1 liter glass flask equipped with a stirrer and sulfuric acid was added as a polymerization accelerator in an amount of 500 ppm based on the amount of the p-vinyl phenol with stirring on a water bath. The mixture was reacted at 60° C. for 3 hours.

reactant | p-ethyl phenol | C(C)C1=CC=C(C=C1)O | C8H10O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | p-vinyl phenol | 500 g | C(=C)C1=CC=C(C=C1)O | C8H8O
